US05043277
First, cells were recovered from the culture by centrifugation. The collected cells were washed by suspending them in a 0.85% sodium chloride solution and recovered by centrifugation. The washed cells were then suspended in a 25 mM Tris-HCl buffer solution (pH 8.8) to give a cell concentration of about 1% by wet weight. The suspension was added to an enzymatic reaction medium comprising a 25 mM Tris-HCl buffer solution (pH 8.8) supplemented with 25 mM L-phenylalanine and 0.005% cetyl pyridium hydrochloride. The resultant reaction medium was incubated at 30° C. for 20 minutes. After the reaction was terminated by addition of 1N HCl, cinnamic acid formed in the reaction mixture was analyzed by liquid chromatography to estimate the PAL activity. One unit (U) as defined herein corresponds to the amount of enzyme to produce one micromole of cinnamic acid per minute.

reactant | Tris-HCl | 25 mM, pH 8.8 | C(C(CO)(CO)N)O.Cl
reactant | L-phenylalanine | 25 mM | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
product | cinnamic acid | one micromole | C(C=CC1=CC=CC=C1)(=O)O | C9H8O2
